US07763661B2
b) Methyl 5-methanesulfonyl-2-methyl-4-(3-pentafluorosulfanylphenoxy)-benzoate
5.00 g of 3-pentafluorosulfanylphenol, 6.98 g of methyl 4-bromo-5-methanesulfonyl-2-methylbenzoate (Journal of Medicinal Chemistry (1997), 40(13), 2017) and 22.20 g of Cs2CO3 were stirred in 200 ml of anhydrous DMF at 100° C. for 2 h. The mixture was allowed to cool, and the reaction mixture was poured onto 1 of water and stirred at RT for 16 h. The product was then filtered off and dried under reduced pressure. 8.20 g of pale yellow crystals were obtained, mp 139° C. (with decomposition).

reactant | 3-pentafluorosulfanylphenol | 5.00 g | FS(C=1C=C(C=CC1)O)(F)(F)(F)F | C6H5F5OS
reactant | methyl 4-bromo-5-methanesulfonyl-2-methylbenzoate | 6.98 g | BrC1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C10H11BrO4S
reactant | Cs2CO3 | 22.20 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | Methyl 5-methanesulfonyl-2-methyl-4-(3-pentafluorosulfanylphenoxy)-benzoate | 8.20 g | CS(=O)(=O)C=1C(=CC(=C(C(=O)OC)C1)C)OC1=CC(=CC=C1)S(F)(F)(F)(F)F | C16H15F5O5S2
